US07459106B2
Preparation of E,E-1,4-Bis(p-bromostyryl)benzene (26).
50% aqueous sodium hydroxide (20 ml) was added to a solution of tetraethyl p-xylylenebisphosphonate (2.40 g, 6.35 mmol) (25) and 4-bromobenzaldehyde (2.41 g, 13.02 mmol) in 10 ml of benzene. Tetra-n-butylammonium iodide (148 mmg) was added and the mixture was refluxed under nitrogen for 1 hour. The reaction mixture was allowed to cool and diluted by the addition of water (25 ml). A yellow solid was collected and washed three times with water, methanol and ether. The product was purified by recrystallization from xylenes and was isolated in 61.9% (1.73 g) yield (Product is insoluble in standard solvents).

reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | tetraethyl p-xylylenebisphosphonate | 6.35 mmol, 2.40 g | C1(=CC=C(C=C1)CP(OCC)(OCC)=O)CP(OCC)(OCC)=O | C16H28O6P2
reactant | 4-bromobenzaldehyde | 13.02 mmol, 2.41 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | water | 25 ml | O | H2O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | Tetra-n-butylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | E,E-1,4-Bis(p-bromostyryl)benzene | BrC1=CC=C(/C=C/C2=CC=C(C=C2)\C=C\C2=CC=C(C=C2)Br)C=C1 | C22H16Br2
